US09328106B2
A mixture of 5-bromo-2-fluoro-benzenecarbothioamide (11.8 mmol, 2840 mg) and ethyl bromopyruvate (1.05 equiv., 12.4 mmol, 1.56 mL) in ethanol (30 mL) was heated at 80° C. overnight. The mixture was concentrated and the residue was purified on silica eluted with 0 to 20% EtOAc in Heptane to afford ethyl 2-(5-bromo-2-fluoro-phenyl)thiazole-4-carboxylate (2960 mg, 76.14% Yield) as a clear oil.

reactant | 5-bromo-2-fluoro-benzenecarbothioamide | 11.8 mmol, 2840 mg | BrC=1C=CC(=C(C1)C(N)=S)F | C7H5BrFNS
reactant | ethyl bromopyruvate | 12.4 mmol, 1.56 mL, 1.05 equiv. | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 2-(5-bromo-2-fluoro-phenyl)thiazole-4-carboxylate | 2960 mg, 76.14% Yield | BrC=1C=CC(=C(C1)C=1SC=C(N1)C(=O)OCC)F | C12H9BrFNO2S
